US07592357B2
Step 1. Methyl 5-(aminosulfonyl)-4-chloro-2-fluorobenzoate
5-(Aminosulfonyl)-4-chloro-2-fluorobenzoic acid (507 mg, 2.0 mmol) in CH3OH (3 mL) with 3 drops of concentrated sulfuric acid was heated at 80° C. for 60 hours. The reaction mixture was diluted with EtOAc (20 mL), washed with water, brine, and dried (Na2SO4). The solvent was evaporated to afford the product (508 mg, 95%) as a white solid. MS (ES+) m/z 268 [M+H]+.

reactant | 5-(Aminosulfonyl)-4-chloro-2-fluorobenzoic acid | 2.0 mmol, 507 mg | NS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)F)Cl | C7H5ClFNO4S
reactant | CH3OH | 3 mL | CO | CH4O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | Methyl 5-(aminosulfonyl)-4-chloro-2-fluorobenzoate | 508 mg, 95% | NS(=O)(=O)C=1C(=CC(=C(C(=O)OC)C1)F)Cl | C8H7ClFNO4S
